US06451821B1
(−)-(4S)-4-(4-Aminobutyl)-4,5-dihydro-1,3-thiazol-2-ylamine Dihydrochloride
The process is performed as in Example 9, starting with 0.59 g of ethyl (2S)-6-{[(benzyloxy)-carbonyl]amino}-2-{[(tert-butylamino)carbothioyl]-amino}hexanoate in 6 cm3 of 6N hydrochloric acid. After concentration of the reaction medium under the same conditions, the foam obtained is taken up 3 times in diethyl ether and the phases are separated each time after settling has taken place, and the remaining insoluble material is then taken up in 10 cm3 of acetonitrile. The resulting crystalline product is spin-filtered, washed with hot acetonitrile and then dried under reduced pressure (5 kPa) at a temperature in the region of 20° C. 0.34 g of (−)-(4S)-4-(4-amino-butyl)-4,5-dihydro-1,3-thiazol-2-ylamine dihydro-chloride in the form of cream-colored crystals melting at 170° C.

reactant | ethyl (2S)-6-{[(benzyloxy)-carbonyl]amino}-2-{[(tert-butylamino)carbothioyl]-amino}hexanoate | 0.59 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OCC)NC(=S)NC(C)(C)C | C21H33N3O4S
reactant | hydrochloric acid | 6N, 6 cm3 | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | (−)-(4S)-4-(4-Aminobutyl)-4,5-dihydro-1,3-thiazol-2-ylamine Dihydrochloride | Cl.Cl.NCCCC[C@@H]1N=C(SC1)N | InChI=1S/C7H15N3S.2ClH/c8-4-2-1-3-6-5-11-7(9)10-6;;/h6H,1-5,8H2,(H2,9,10);2*1H/t6-;;/m0../s1
